US08440666B2
N-Methoxy-N-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-4-carboxamide
A dichloromethane solution (3 mL) of N-methoxy-N-methyl-1H-pyrazole-4-carboxamide (142.7 mg, 2.68 mmol) was mixed with 2-(trimethysilyl)ethoxymethyl chloride (0.47 mL, 2.68 mmol) and N,N-diisopropylethylamine (0.94 mL, 5.36 mmol) and stirred at room temperature for 16 hours. After completion of the reaction, the reaction solution was mixed with ethyl acetate washed with saturated aqueous sodium chloride and the organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to give the desired product (325.8 mg, 85% yield).

reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
reactant | N-methoxy-N-methyl-1H-pyrazole-4-carboxamide | 2.68 mmol, 142.7 mg | CON(C(=O)C=1C=NNC1)C | C6H9N3O2
reactant | 2-(trimethysilyl)ethoxymethyl chloride | 2.68 mmol, 0.47 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | N,N-diisopropylethylamine | 5.36 mmol, 0.94 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Methoxy-N-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-4-carboxamide | 325.8 mg, 85% yield | CON(C(=O)C=1C=NN(C1)COCC[Si](C)(C)C)C | C12H23N3O3Si
